US05817700
Step 1: 3,4-Difluoro-N-methoxy-N-methyl benzamide
To a solution of 3,4-difluorobenzoyl chloride (5.25 g) in chloroform (30 mL) at 0° C. was added N,O-dimethylhydroxylamine hydrochloride (3.2 g) followed by pyridine (5.8 mL) dropwise. The mixture was stirred at r.t. for 2 hr, diluted with EtOAc, washed with HCl 1N, with H2O, saturated NaCHO3 sol., brine, dried (MgSO4) and the solvents evaporated to give the title product.

reactant | 3,4-difluorobenzoyl chloride | 5.25 g | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
reactant | N,O-dimethylhydroxylamine hydrochloride | 3.2 g | Cl.CNOC
reactant | pyridine | 5.8 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,4-Difluoro-N-methoxy-N-methyl benzamide | FC=1C=C(C(=O)N(C)OC)C=CC1F | C9H9F2NO2
